US08703810B2
A mixture of (R)-2-methylbutane-1,4-diyl dimethanesulfonate (30 g, 0.115 mol), 2-aminoethanol (7.0 g, 0.115 mol), and K2CO3 (31.7 g, 0.23 mol) in acetonitrile (0.9 L) was refluxed for 20 h. The mixture was cooled to room temperature and concentrated under vacuum to afford a residue (a mixture of oil and solid). DCM (300 mL) and sat'd K2CO3 solution (300 mL) were added and just enough water was added to dissolve all solid. The organic layer was separated, and aqueous phase was further extracted with DCM (2×300 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. Purification by flash column chromatography [EA/Hex/MeOH/TEA=10:7:2:1] gave (R)-2-(3-methylpyrrolidin-1-yl)ethanol (4.19 g, 28%). 1H NMR (CDCl3): δ 3.61 (t, 2H), 2.84 (dd, 1H), 2.70 (m, 1H), 2.65 (m, 1H), 2.62 (m, 1H), 2.54 (m, 1H), 2.25 (m, 1H), 2.11 (dd, 1H), 2.03 (m, 1H), 1.36 (m, 1H), 1.03 (d, 3H); MS: 130.2 (M+H)+.

reactant | (R)-2-methylbutane-1,4-diyl dimethanesulfonate | 0.115 mol, 30 g | CS(=O)(=O)OC[C@@H](CCOS(=O)(=O)C)C | C7H16O6S2
reactant | 2-aminoethanol | 0.115 mol, 7.0 g | NCCO | C2H7NO
reactant | K2CO3 | 0.23 mol, 31.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DCM | 300 mL | C(Cl)Cl | CH2Cl2
reactant | K2CO3 | 300 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 0.9 L | C(C)#N | C2H3N
solvent | water | O | H2O
product | (R)-2-(3-methylpyrrolidin-1-yl)ethanol | 4.19 g, 28% | C[C@H]1CN(CC1)CCO | C7H15NO
